### PR TITLE
Cleaned and moved category of abelian groups

### PR DESCRIPTION
**Pull request by tpannila**
This PR cleans the proofs in category_abgr.v, moves some results to Monoids_and_Groups.v and
Integers.v, to avoid duplication, and moves the file category_abgr.v to categories/abgrs.v.

@AnthonyBordg and @vladimirias , the abelian group structure on monoidfuns between abelian groups
is now given in `abgrshomabgr`, line 2100 of `Monoids_and_Groups.v`.

### CODE REVIEW

File: UniMath/Algebra/BinaryOperations.v [hunk 1]
```diff
@@ -50,6 +50,14 @@ Definition unop (X : UU) : UU := X -> X.
 
 (** *** Binary operations *)
 
+Lemma binoppathsop {X : UU} {opp : binop X} {x1 y1 x2 y2 : X} (e1 : x1 = y1) (e2 : x2 = y2) :
```
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: This lemma is redundant, because of 
```
Lemma two_arg_paths {A B C:UU} {f : A -> B -> C} {a1 b1 a2 b2} (p : a1 = a2)
      (q : b1 = b2) : f a1 b1 = f a2 b2.
```

File: UniMath/Algebra/BinaryOperations.v [hunk 2]
```diff
@@ -83,6 +91,9 @@ Definition binop_weq_bck {X Y : UU} (H : weq X Y) :
 Definition isassoc {X : hSet} (opp : binop X) : UU :=
   ∏ x x' x'', paths (opp (opp x x') x'') (opp x (opp x' x'')).
 
+Definition mk_isassoc {X : hSet} {opp : binop X}
```
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: This function is redundant, because it's the identity function on the type `isassoc opp`.

File: UniMath/Algebra/BinaryOperations.v [hunk 3]
```diff
@@ -96,6 +107,9 @@ Defined.
 
 Definition islunit {X : UU} (opp : binop X) (un0 : X) : UU := ∏ x : X, paths (opp un0 x) x.
 
+Definition mk_islunit {X : UU} {opp : binop X} {un0 : X} (H : ∏ x : X, opp un0 x = x) :
```
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: This function is redundant, because it's an identity function.

File: UniMath/Algebra/BinaryOperations.v [hunk 4]
```diff
@@ -105,6 +119,9 @@ Defined.
 
 Definition isrunit {X : UU} (opp : binop X) (un0 : X) : UU := ∏ x : X, paths (opp x un0) x.
 
+Definition mk_isrunit {X : UU} {opp : binop X} {un0 : X} (H : ∏ x : X, opp x un0 = x) :
```
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: This function is a redundant identity function.

File: UniMath/Algebra/BinaryOperations.v [hunk 5]
```diff
@@ -156,6 +179,9 @@ Defined.
 Definition islinv {X : hSet} (opp : binop X) (un0 : X) (inv0 : X -> X) : UU :=
   ∏ x : X, paths (opp (inv0 x) x) un0.
 
+Definition mk_islinv {X : hSet} {opp : binop X} {un0 : X} {inv0 : X -> X}
```
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: This is an identity function, hence is redundant.

File: UniMath/Algebra/BinaryOperations.v [hunk 6]
```diff
@@ -167,6 +193,9 @@ Defined.
 Definition isrinv {X : hSet} (opp : binop X) (un0 : X) (inv0 : X -> X) : UU :=
   ∏ x : X, paths (opp x (inv0 x)) un0.
 
+Definition mk_isrinv {X : hSet} {opp : binop X} {un0 : X} {inv0 : X -> X}
```
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: This is a redundant identity function.

File: UniMath/Algebra/BinaryOperations.v [hunk 7]
```diff
@@ -372,6 +407,9 @@ Defined.
 
 Definition iscomm {X : hSet} (opp : binop X) : UU := ∏ x x' : X, paths (opp x x') (opp x' x).
 
+Definition mk_iscomm {X : hSet} {opp : binop X} (H : ∏ x x' : X, (opp x x') = (opp x' x)) :
```
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: This is an identity function.

File: UniMath/Algebra/BinaryOperations.v [hunk 8]
```diff
@@ -1355,6 +1393,16 @@ Proof.
 Defined.
 Opaque isasetbinoponhSet.
 
+Definition binopradd {X : setwithbinop} (x y z : X) : x = y -> op x z = op y z.
+Proof.
+  intros X x y z e. induction e. use idpath.
+Qed.
+
+Definition binopladd {X : setwithbinop} (x y z : X) : x = y -> op z x = op z y.
```
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: These two functions are just special cases of `maponpaths`, so are redundant.

File: UniMath/Algebra/BinaryOperations.v [hunk 9]
```diff
@@ -1749,6 +1827,9 @@ Definition isabgropisob {X Y : setwithbinop} (f : binopiso X Y) (is : isabgrop (
 Definition issubsetwithbinop {X : hSet} (opp : binop X) (A : hsubtype X) : UU :=
   ∏ a a' : A, A (opp (pr1 a) (pr1 a')).
 
+Definition mk_issubsetwithbinop {X : hSet} {opp : binop X} {A : hsubtype X}
```
Comment (DanGrayson) [inline UniMath/Algebra/BinaryOperations.v]: This is a special case of `idfun`.

**Comment by vladimirias** [comment]
Why a function from hz to abrg is called abgr_hz_map?

**Comment by vladimirias** [comment]
A general comment: 

mk functions are useful when the target is an iterated total2 (dependent sum), they are meaningless (repeat the definition) when the target is an iterated Pi (dependent product).

**Comment by vladimirias** [comment]
There is no need for pr1's in isbinopfun_2of3. I guess there must be many other places where it is not needed. *Please*, look upstream before doing things. In particular, browse through the coercions.

**Comment by vladimirias** [comment]
See my comment about naming of 2of3 lemmas in the issues.

**Comment by DanGrayson** [comment]
lgtm
